### PR TITLE
[Merged by Bors] - feat: measurable union of a family of measurable sets

### PR DESCRIPTION
**Pull request by sgouezel**
Needed for #34055

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Typeclasses/SFinite.lean [hunk 1]
```diff
@@ -316,6 +317,50 @@ theorem countable_meas_level_set_pos {α β : Type*} {_ : MeasurableSpace α} {
...
+    apply le_antisymm (le_biSup (f := fun D ↦ μ (⋃₀ D)) hD)
+    apply le_of_tendsto' u_lim (fun n ↦ (huD n).le.trans ?_)
+    exact measure_mono (fun x hx ↦ by simp at hx ⊢; grind)
+  refine ⟨D, by grind, by grind, fun s hs ↦ union_ae_eq_right_iff_ae_subset.mp ?_⟩
+  symm
+  apply ae_eq_of_ae_subset_of_measure_ge subset_union_right.eventuallyLE
+  · rw [hD, show s ∪ ⋃₀ D = ⋃₀ (D ∪ {s}) by simp]
+    apply le_biSup (f := fun D ↦ μ (⋃₀ D))
+    simp [D_mem.2, insert_subset_iff, hs, D_mem.1]
+  · exact MeasurableSet.nullMeasurableSet (MeasurableSet.sUnion D_mem.2 (by grind))
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Typeclasses/SFinite.lean]:
```suggestion
  · exact (MeasurableSet.sUnion D_mem.2 (by grind)).nullMeasurableSet
```

File: Mathlib/MeasureTheory/Measure/Typeclasses/SFinite.lean [hunk 2]
```diff
@@ -316,6 +317,50 @@ theorem countable_meas_level_set_pos {α β : Type*} {_ : MeasurableSpace α} {
...
+subfamily. -/
+lemma exists_ae_subset_biUnion_countable [SFinite μ]
+    {C : Set (Set α)} (hC : ∀ s ∈ C, MeasurableSet s) :
+    ∃ D ⊆ C, D.Countable ∧ ∀ s ∈ C, s ≤ᵐ[μ] (⋃₀ D) := by
+  have A n : ∃ D ⊆ C, D.Countable ∧ ∀ s ∈ C, s ≤ᵐ[sfiniteSeq μ n] (⋃₀ D) :=
+    exists_ae_subset_biUnion_countable_of_isFiniteMeasure hC
+  choose D DC D_count hD using A
+  refine ⟨⋃ n, D n, by simp [DC], by simp [D_count], fun s hs ↦ ?_⟩
+  rw [← sum_sfiniteSeq μ]
+  apply Measure.ae_sum_iff.2 (fun n ↦ EventuallyLE.trans (hD n s hs) ?_)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Typeclasses/SFinite.lean]:
```suggestion
  apply ae_sum_iff.2 (fun n ↦ (hD n s hs).trans ?_)
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate
